US07645753B2
3-Ethoxy-2-methoxy-pyridine
A solution of 2-chloro-3-ethoxy-pyridine (3.0 g, 19.0 mmol, 1.0 equiv) and sodium methoxide (8.8 mL, 47.5 mmol, 2.5 equiv, 5.4 M solution in methanol) was heated to 100° C. under microwave irradiation for 20 min. The crude reaction mixture was poured into water (100 mL) and extracted with dichloromethane (3×100 mL). The combined organic phases were dried over MgSO4 and the solvent removed by evaporation under reduced pressure to yield 2.75 g (95%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 1.40 (t, J=7.0 Hz, 3H), 3.94 (s, 3H), 4.02 (q, J=7.0 Hz, 2H), 6.75 (dd, J=7.8 Hz, J=5.0 Hz, 1H), 6.96 (dd, J=7.8 Hz, J=1.5 Hz, 1H), 7.65 (dd, J=5.0 Hz, 1=1.5 Hz, 1H). 13C NMR (75 MHz, CDCl3): δ 13.62, 52.53, 63.25, 115.69, 117.53, 136.13, 142.45, 153.84. MS (ISP): 153.8 [M+H]+.

reactant | 2-chloro-3-ethoxy-pyridine | 19.0 mmol, 3.0 g, 1.0 equiv | ClC1=NC=CC=C1OCC | C7H8ClNO
reactant | sodium methoxide | 47.5 mmol, 5.4 M, 8.8 mL, 2.5 equiv | C[O-].[Na+]
solvent | water | 100 mL | O | H2O
product | 3-Ethoxy-2-methoxy-pyridine | 2.75 g, 95% | C(C)OC=1C(=NC=CC1)OC | C8H11NO2
